US07732477B2
Methyl thieno[2,3-b]pyridine-2-carboxylate
The synthesis is carried out according to the general procedure; for work-up, the resulting precipitate is filtered off with suction and washed twice with water and three times with ethyl acetate. The organic phase of the resulting filtrate is separated off, dried and concentrated. Using 0.22 g (1.07 mmol) of methyl 3-aminothieno[2,3-b]pyridine-2-carboxylate and 0.24 g (3.41 mmol) of sodium nitrite, 84 mg (41% of theory) of the desired product are obtained.

reactant | methyl 3-aminothieno[2,3-b]pyridine-2-carboxylate | 1.07 mmol, 0.22 g | NC1=C(SC2=NC=CC=C21)C(=O)OC | C9H8N2O2S
reactant | sodium nitrite | 3.41 mmol, 0.24 g | N(=O)[O-].[Na+]
product | Methyl thieno[2,3-b]pyridine-2-carboxylate | S1C(=CC=2C1=NC=CC2)C(=O)OC | C9H7NO2S
